### PR TITLE
[Merged by Bors] - feat(Topology/EMetricSpace/Defs): non-strict ε-δ criteria for uniform continuity

### PR DESCRIPTION
**Pull request by teorth**
Add `EMetric.uniformContinuousOn_iff` and `EMetric.uniformContinuousOn_iff_le` lemmas, matching their `Metric` counterparts.

(This PR was previously more extensive, adding (pseudo-)metric space (or "epsilon-delta") versions of many of the versions of the Heine-Cantor theorem (continuous functions on compacta are uniformly continuous), but these have now been removed as per reviewer feedback.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/MetricSpace/HeineCantor.lean [hunk 1]
```diff
@@ -0,0 +1,70 @@
...
+    (hs.uniformContinuousAt_of_continuousAt f hf (uniformity_basis_dist.mem_of_mem hε))
+  exact ⟨δ, hδ, fun x hx y hxy ↦ H (a := (x, y)) hxy hx⟩
+
+/-- Version of `IsCompact.exists_forall_dist_lt_of_continuousAt` with non-strict inequalities. -/
+theorem IsCompact.exists_forall_dist_le_of_continuousAt (hs : IsCompact s)
+    (hf : ∀ a ∈ s, ContinuousAt f a) {ε : ℝ} (hε : 0 < ε) :
+    ∃ δ > 0, ∀ x ∈ s, ∀ y, dist x y ≤ δ → dist (f x) (f y) ≤ ε := by
+  obtain ⟨δ, hδ, H⟩ := uniformity_basis_dist_le.mem_iff.1
+    (hs.uniformContinuousAt_of_continuousAt f hf (uniformity_basis_dist_le.mem_of_mem hε))
+  exact ⟨δ, hδ, fun x hx y hxy ↦ H (a := (x, y)) hxy hx⟩
```
Comment (felixpernegger) [inline Mathlib/Topology/MetricSpace/HeineCantor.lean]:
```suggestion
    ∃ δ > 0, ∀ x ∈ s, ∀ y, dist x y ≤ δ → dist (f x) (f y) ≤ ε :=
  let ⟨δ, hδ, H⟩ := uniformity_basis_dist_le.mem_iff.1
    (hs.uniformContinuousAt_of_continuousAt f hf (uniformity_basis_dist_le.mem_of_mem hε))
  ⟨δ, hδ, fun x hx y hxy ↦ H (a := (x, y)) hxy hx⟩
```
minor style suggestion

File: Mathlib/Topology/MetricSpace/HeineCantor.lean [hunk 2]
```diff
@@ -0,0 +1,70 @@
...
+/-- Metric ε-δ form of `IsCompact.uniformContinuousAt_of_continuousAt`: if `f` is continuous at
+each point of a compact set `s`, then for every `ε > 0` there is a `δ > 0` such that `f x` and
+`f y` are within `ε` whenever `x ∈ s` and `y` is within `δ` of `x`. Unlike
+`ContinuousOn.exists_forall_dist_lt_of_isCompact`, the point `y` need not lie in `s`. -/
+theorem IsCompact.exists_forall_dist_lt_of_continuousAt (hs : IsCompact s)
+    (hf : ∀ a ∈ s, ContinuousAt f a) {ε : ℝ} (hε : 0 < ε) :
+    ∃ δ > 0, ∀ x ∈ s, ∀ y, dist x y < δ → dist (f x) (f y) < ε := by
+  obtain ⟨δ, hδ, H⟩ := uniformity_basis_dist.mem_iff.1
+    (hs.uniformContinuousAt_of_continuousAt f hf (uniformity_basis_dist.mem_of_mem hε))
+  exact ⟨δ, hδ, fun x hx y hxy ↦ H (a := (x, y)) hxy hx⟩
```
Comment (felixpernegger) [inline Mathlib/Topology/MetricSpace/HeineCantor.lean]:
```suggestion
  let ⟨δ, hδ, H⟩ := uniformity_basis_dist.mem_iff.1
    (hs.uniformContinuousAt_of_continuousAt f hf (uniformity_basis_dist.mem_of_mem hε))
  ⟨δ, hδ, fun x hx y hxy ↦ H (a := (x, y)) hxy hx⟩
```
minor style suggestion

File: Mathlib/Topology/MetricSpace/HeineCantor.lean [hunk 3]
```diff
@@ -0,0 +1,70 @@
...
+/-- Version of `ContinuousOn.exists_forall_dist_lt_of_isCompact` with non-strict inequalities. -/
+theorem ContinuousOn.exists_forall_dist_le_of_isCompact (hs : IsCompact s) (hf : ContinuousOn f s)
+    {ε : ℝ} (hε : 0 < ε) :
+    ∃ δ > 0, ∀ x ∈ s, ∀ y ∈ s, dist x y ≤ δ → dist (f x) (f y) ≤ ε :=
+  uniformContinuousOn_iff_le.mp (hs.uniformContinuousOn_of_continuous hf) ε hε
+
+/-- **Heine–Cantor** on a compact space, in metric ε-δ form: a continuous function on a compact
+pseudometric space is uniformly continuous, so for every `ε > 0` there is a `δ > 0` such that any
+two points within `δ` are mapped within `ε`. -/
+theorem Continuous.exists_forall_dist_lt_of_compactSpace [CompactSpace α] (hf : Continuous f)
```
Comment (felixpernegger) [inline Mathlib/Topology/MetricSpace/HeineCantor.lean:47]: This is basically [ContinuousMap.uniform_continuity](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/ContinuousMap/Compact.html#ContinuousMap.uniform_continuity) for what it's worth

File: Mathlib/Topology/MetricSpace/HeineCantor.lean [hunk 4]
```diff
@@ -0,0 +1,70 @@
...
+A function continuous on a compact set of a pseudometric space is uniformly continuous there.
+This file records the metric ε-δ consequences of the uniform-space level
+`IsCompact.uniformContinuousOn_of_continuous` and its siblings.
+-/
+
+public section
+
+open Metric CompactSpace
+
+variable {α β : Type*} [PseudoMetricSpace α] [PseudoMetricSpace β] {s : Set α} {f : α → β}
```
Comment (felixpernegger) [inline Mathlib/Topology/MetricSpace/HeineCantor.lean:26]: All of this can also be done for `PseudoEMetricSpace`. Is there any reason to only do it for `PseudoMetricSpace`?

**Comment by felixpernegger** [comment]
awaiting-author

File: Mathlib/Topology/MetricSpace/HeineCantor.lean (hunk 4 above)
Comment (teorth) [reply Mathlib/Topology/MetricSpace/HeineCantor.lean:26]: I've now added `PseudoEMetricSpace` versions.  (Disclosure: an AI tool was used to create these variants.) They don't quite subsume the `PseudoMetricSpace` versions because they use `edist` rather than `dist`, and the exercise also revealed a small gap in the `PseudoEMetricSpace` API which is now also added.

File: Mathlib/Topology/MetricSpace/HeineCantor.lean (hunk 3 above)
Comment (teorth) [reply Mathlib/Topology/MetricSpace/HeineCantor.lean:47]: I've added a comment linking to this as the bundled version.  But I think the unbundled version of this lemma is still worth having separately.  One could in principle redirect the proof of the bundled version to use the unbundled version but as both proofs are already just one line long this seems to not be worth it to me.

**Comment by teorth** [comment]
-awaiting-author

File: Mathlib/Topology/MetricSpace/HeineCantor.lean (hunk 3 above)
Comment (felixpernegger) [reply Mathlib/Topology/MetricSpace/HeineCantor.lean:47]: Yes of course. I'm not a fan of bundled theorems in general

File: Mathlib/Topology/EMetricSpace/Defs.lean [hunk 5]
```diff
@@ -289,6 +289,17 @@ theorem uniformContinuous_iff [PseudoEMetricSpace β] {f : α → β} :
     UniformContinuous f ↔ ∀ ε > 0, ∃ δ > 0, ∀ {a b : α}, edist a b < δ → edist (f a) (f b) < ε :=
   uniformity_basis_edist.uniformContinuous_iff uniformity_basis_edist
 
+/-- Version of `EMetric.uniformContinuousOn_iff` with non-strict inequalities. -/
+theorem uniformContinuousOn_iff_le [PseudoEMetricSpace β] {f : α → β} {s : Set α} :
+    UniformContinuousOn f s ↔
+      ∀ ε > 0, ∃ δ > 0, ∀ {a}, a ∈ s → ∀ {b}, b ∈ s → edist a b ≤ δ → edist (f a) (f b) ≤ ε :=
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/Defs.lean]:
```suggestion
      ∀ ε > 0, ∃ δ > 0, ∀ a ∈ s, ∀ b ∈ s, edist a b ≤ δ → edist (f a) (f b) ≤ ε :=
```

To make it consistent with [Metric.uniformContinuousOn_iff_le](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/MetricSpace/Pseudo/Defs.html#Metric.uniformContinuousOn_iff_le)

File: Mathlib/Topology/EMetricSpace/Defs.lean [hunk 6]
```diff
@@ -289,6 +289,17 @@ theorem uniformContinuous_iff [PseudoEMetricSpace β] {f : α → β} :
...
+  uniformity_basis_edist_le.uniformContinuousOn_iff uniformity_basis_edist_le
+
+/-- Version of `EMetric.uniformContinuous_iff` with non-strict inequalities. -/
+theorem uniformContinuous_iff_le [PseudoEMetricSpace β] {f : α → β} :
+    UniformContinuous f ↔ ∀ ε > 0, ∃ δ > 0, ∀ {a b : α}, edist a b ≤ δ → edist (f a) (f b) ≤ ε :=
```
Comment (felixpernegger) [inline Mathlib/Topology/EMetricSpace/Defs.lean]:
```suggestion
    UniformContinuous f ↔ ∀ ε > 0, ∃ δ > 0, ∀ ⦃a b : α⦄, edist a b ≤ δ → edist (f a) (f b) ≤ ε :=
```
again for consistency with the metric version

**Review by felixpernegger — APPROVED** [review]
LGTM except two minor cosmetic suggestions

**Review by j-loreaux — COMMENTED** [review]
I think it's worth having these for convenience, but let's see what another maintainer thinks.

maintainer merge

**Comment by ADedecker** [comment]
> I think it's worth having these for convenience, but let's see what another maintainer thinks.
> 
> maintainer merge

I disagree for the most part. My vision of this is that we should have a ton of ways to rewrite the definitions into more classical versions, but not the theorems (unless there is something specific to the metric case of course). So I am definitely in favor of adding `EMetric.uniformContinuousOn_iff_le`, but I would be against adding all the one-liners like `ContinuousOn.exists_forall_edist_lt_of_isCompact`. I know Mathlib is not too hard on duplication, but this seems too much to me.

Now, the situation of `IsCompact.exists_forall_edist_lt_of_continuousAt` (and friends) is not as simple (and indeed the proof takes three lines instead of one), but this is because we are lacking a definition on which to base the API. If you need them, I would prefer to create this definition and API instead, though I'm a bit torn on the name.

**Comment by teorth** [comment]
I'm happy to remove the one-line lemmas, but I'm not sure what missing definition you are referring to with regards to `IsCompact.exists_forall_edist_lt_of_continuousAt`, could you clarify?

**Comment by ADedecker** [comment]
I was thinking of something like this (name subject to change):
```
def StronglyUniformContinuousOn (f : α → β) (s : Set α) : Prop :=
  Tendsto (fun x : α × α => (f x.1, f x.2)) (𝓤 α ⊓ 𝓟 (univ ×ˢ s)) (𝓤 β)
```

Then [IsCompact.uniformContinuousAt_of_continuousAt](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/UniformSpace/HeineCantor.html#IsCompact.uniformContinuousAt_of_continuousAt) can be rephrased as "if a function is continuous at every point of a compact subset, then it is strongly uniformly continuous on this set", and to get back to the epsilon-delta version we just have to give a metric criterion for `StronglyUniformContinuousOn`, like we have for `UniformContinuousOn`.

**Comment by ADedecker** [comment]
Essentially, my worry with your PR is the following: say we have three definitions `A`, `B` and `C`, a theorem `T` relating them, and each definition `X` can be equivalently written as `X_1`, `X_2`, ..., `X_5` (maybe under some hyps). Then I claim we should only have one theorem `T`, plus the 15 translating statements, rather than the `6^3` variations of theorem `T` with all the variants for `A`, `B` and `C`.

For example, what about the variations of your statements where the continuity hypothesis is also stated in epsilon-delta form? Should that be included? And if not, why not?

**Comment by teorth** [comment]
Thanks, this is helpful.

I have no intended application for `IsCompact.exists_forall_dist_lt_of_continuousAt` etc,; these are mechanical translations of the existing lemma `IsCompact.uniformContinuousAt_of_continuousAt` which currently is used exactly once in Mathlib (to prove `Continuous.uniformContinuous_of_tendsto_cocompact`, and am happy to just drop the translations.

**Comment by teorth** [comment]
-awaiting-author

**Comment by ADedecker** [comment]
Thanks!

bors merge
